US09387204B2
Step1: 4-(3-pyridin-4-ylimidazo[1,2-a]pyridin-2-yl)benzaldehyde
0.2 g (0.9 mM) 4-imidazo[1,2-a]pyridin-2-ylbenzaldehyde (prepared as described by Sundberg et al.; J. Heterocyclic Chem., 25, 129, 1988) is dissolved in 5 mL of Dioxane. To this is added CsCO3 (1.1 eq), palladium acetate (8 mol %), triphenyl phosphine (16 mol %), triethylamine (2 eq) and 4-bromo-pyridine (1.4 eq). The reaction mixture is heated (microwave) for 45 min at 100° C. The reaction mixture is cooled to RT, diluted with DCM. The organic layer is washed with water, dried and concentrated. The crude product purified by column chromatography to obtain the desired compound.

reactant | 4-imidazo[1,2-a]pyridin-2-ylbenzaldehyde | 0.9 mM, 0.2 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=O)C=C2 | C14H10N2O
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2 eq | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-pyridine | 1.4 eq | BrC1=CC=NC=C1 | C5H4BrN
solvent | Dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3-pyridin-4-ylimidazo[1,2-a]pyridin-2-yl)benzaldehyde | N1=CC=C(C=C1)C1=C(N=C2N1C=CC=C2)C2=CC=C(C=O)C=C2 | C19H13N3O
